US07994164B2
(E)-N-(5-((E)-3,7-Difluoro-6H-dibenzo[b,e]oxepin-11-ylidenemethyl)-1-(4-methyl-piperazin-1-yl)-1,3-dihydro-benzoimidazol-2-ylidene)-cyanamide
Dissolve [4-((E)-3,7-difluoro-6H-dibenzo[b,e]oxepin-11-ylidenemethyl)-2-nitro-phenyl]-(4-methyl-piperazin-1-yl)-amine (0.008 mol, 3.96 g) in tetrahydrofuran (150 mL). Add triethylamine (0.018 mol, 1.84 g) and 10% platinum on carbon (1.3 g) and hydrogenate in a Parr shaker at 50 psi (H2) at room temperature for 3 h. Filter off the catalyst through a plug of diatomaceous earth, and add pyridine (150 mL) and diphenyl N-cyanocarbonimidate (0.009 mol, 2.17 g). Stir at room temperature for 16 h and then heat to 70° C. for 8 h. Concentrate the reaction mixture under reduced pressure. Purify on a silica gel column using 60% acetone in hexanes as eluent to obtain the title compound (1.8 g, 43%) as an off-white solid. LC-MS m/z 499.2 [M+H]+.

reactant | [4-((E)-3,7-difluoro-6H-dibenzo[b,e]oxepin-11-ylidenemethyl)-2-nitro-phenyl]-(4-methyl-piperazin-1-yl)-amine | 0.008 mol, 3.96 g | FC=1C=CC\2=C(OCC3=C(/C2=C\C2=CC(=C(C=C2)NN2CCN(CC2)C)[N+](=O)[O-])C=CC=C3F)C1 | C26H24F2N4O3
reactant | triethylamine | 0.018 mol, 1.84 g | C(C)N(CC)CC | C6H15N
reactant | pyridine | 150 mL | N1=CC=CC=C1 | C5H5N
reactant | diphenyl N-cyanocarbonimidate | 0.009 mol, 2.17 g | C1=CC=C(C=C1)OC(=NC#N)OC2=CC=CC=C2 | C14H10N2O2
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
catalyst | platinum on carbon | 1.3 g | [Pt] | Pt
product | (E)-N-(5-((E)-3,7-Difluoro-6H-dibenzo[b,e]oxepin-11-ylidenemethyl)-1-(4-methyl-piperazin-1-yl)-1,3-dihydro-benzoimidazol-2-ylidene)-cyanamide | 1.8 g, 43% | FC=1C=CC\2=C(OCC3=C(/C2=C\C2=CC4=C(N(\C(\N4)=N\C#N)N4CCN(CC4)C)C=C2)C=CC=C3F)C1 | C28H24F2N6O
